US08486979B2
2-fluoro-5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)phenol
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 4-fluoro-3-hydroxybenzoic acid (Aldrich). 1H NMR (300 MHz, DMSO-d6) δ 7.45 (dd, J=11.1, 8.7 Hz, 1 H), 7.62-7.71 (m, 2 H), 7.78 (dd, J=8.3, 2.0 Hz, 1 H), 8.43 (dt, J=7.9, 1.8 Hz, 1 H), 8.82 (dd, J=5.0, 1.8 Hz, 1 H), 9.24 (d, J=2.0 Hz, 1 H) ppm; MS (DCI/NH3) m/z 258 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 4-fluoro-3-hydroxybenzoic acid | FC1=C(C=C(C(=O)O)C=C1)O | C7H5FO3
reactant | NH3 | N | H3N
product | 2-fluoro-5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)phenol | FC1=C(C=C(C=C1)C1=NC(=NO1)C=1C=NC=CC1)O | C13H8FN3O2
